US05352792
To a solution of 7β-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-trityloxyiminoacetylamino]-3-(trityl-1,2,4-triazol-3-ylthiomethylthio)-3-cephem-4-carboxylic acid diphenylmethyl ester 1-oxide (11.3 g) in acetone (60 ml) under ice cooling is added toluene-p-sulfonic acid monohydrate (1.68 g: 8.83 mMol.), and the mixture is stirred at room temperature for 4 hours. The reaction mixture is diluted with ethyl acetate, washed with aqueous 5% sodium hydrogen carbonate and brine, dried over sodium sulfate, and concentrated. The residue is purified by silica gel chromatography (toluene: ethyl acetate=1:1-1:2) to give 7β-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-trityloxyiminoacetylamino]-3-(1,2,4-triazol-3-ylthiomethylthio)-3-cephem-4-carboxylic acid diphenylmethyl ester 1-oxide (2.84 g) as brown foam. Yield: 31%.

reactant | 7β-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-trityloxyiminoacetylamino]-3-(trityl-1,2,4-triazol-3-ylthiomethylthio)-3-cephem-4-carboxylic acid diphenylmethyl ester 1-oxide | 11.3 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS([C@H]2N1C([C@H]2NC(\C(=N/OC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)\C=2N=C(SC2)NC(=O)OC(C)(C)C)=O)=O)=O)SC(SC2=NNC=N2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C71H60N8O8S4
reactant | toluene-p-sulfonic acid monohydrate | 8.83 mMol, 1.68 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | acetone | 60 ml | CC(=O)C | C3H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7β-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-trityloxyiminoacetylamino]-3-(1,2,4-triazol-3-ylthiomethylthio)-3-cephem-4-carboxylic acid diphenylmethyl ester 1-oxide | 2.84 g, Yield: 31% | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS([C@H]2N1C([C@H]2NC(\C(=N/OC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)\C=2N=C(SC2)NC(=O)OC(C)(C)C)=O)=O)=O)SCSC2=NNC=N2 | C52H46N8O8S4
